US07868030B2
ii) 4-(2-methoxy-4H-1lambda*4*-thiazol-4-yl)-3-methyl-benzenesulfonamide
This compound was prepared analogously to Example 52, starting from N-tert-butyl-3-methyl-benzenesulfonamide boronic acid (1.0 g, 3.69 mmol) and 4-bromo-2-methoxy-thiazole (0.78 g, 4.05 mmol, 1.1 equiv.) After purification on silica-gel with n-heptane/tert.butylmethyl ether 510 mg of the t-butyl protected sulfonamide were obtained. Deprotection analogous to Example 98 yielded 260 mg of the title compound as a light yellow solid. MS (ES): m/e 270 (M−H)

reactant | N-tert-butyl-3-methyl-benzenesulfonamide boronic acid | 3.69 mmol, 1.0 g | B(O)O.C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C
reactant | 4-bromo-2-methoxy-thiazole | 4.05 mmol, 0.78 g, 1.1 equiv. | BrC=1N=C(SC1)OC | C4H4BrNOS
product | 4-(2-methoxy-4H-1lambda*4*-thiazol-4-yl)-3-methyl-benzenesulfonamide | 260 mg | COC=1S=CC(N1)C1=C(C=C(C=C1)S(=O)(=O)N)C | C11H14N2O3S2
